US06310099B1
The nitrile (94.5 g, 0.37 mol) is dissolved in EtOH (350 ml) and treated with NaOH (29.4 g, 0.74 mol) which has been dissolved in water (200 ml). The reaction is heated to reflux temperature for 14 hours. After cooling to room temperature, ethanol is removed on a rotovap and 6N HCl added until the pH=1. The solid 5-methyl-2-iodophenylacetic acid is filtered off and washed with water (2×500 ml). After drying over P2O5 in a vacuum dessicator, the solid 5-methyl-2-iodophenyl acetic acid (mp 112-114°, 83 g, 0.30 mol) is dissolved in CH2Cl2 (450 ml) that contains several drops of DMF. To the solution thionyl chloride (32 ml, 0.450 mol) is added and the reaction heated to reflux temperature overnight. After cooling to room temperature, the reaction mixture is diluted with additional CH2Cl2 (500 ml) and washed with water (2×250 ml), saturated NaHCO3 (250 ml) and brine (250 ml). The solution is dried (MgSO4) and concentrated on a rotovap to give 5-methyl-2-iodophenylacetyl chloride as a yellowish oil.

reactant | NaOH | 0.74 mol, 29.4 g | [OH-].[Na+]
reactant | 5-methyl-2-iodophenyl acetic acid | 0.30 mol, 83 g | CC=1C=CC(=C(C1)CC(=O)O)I | C9H9IO2
reactant | thionyl chloride | 0.450 mol, 32 ml | S(=O)(Cl)Cl | Cl2OS
solvent | EtOH | 350 ml | CCO | C2H6O
solvent | water | 200 ml | O | H2O
solvent | CH2Cl2 | 450 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | several drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-2-iodophenylacetyl chloride | CC=1C=CC(=C(C1)CC(=O)Cl)I | C9H8ClIO
